US06410483B1
Methyl 4-(2-Aminoethyl)-2-tert-butylaminosulfonylbenzoate
After 0.5 g of platinum oxide hydrate had been added to a solution of 2.5 g (8.05 mmol) of methyl 2-(tert-butylaminosulfonyl)-4-cyanomethylbenzoate in 200 ml of methanol and 4 ml of concentrated HCl, the mixture was hydrogenated for 10 hours at room temperature and under a hydrogen pressure of 20 bar. For working-up, the catalyst was removed by filtration and the filtrate was concentrated. After the residue had been taken up in ethyl acetate, the solution was washed four times with 2 N HCl. The combined acidic aqueous phases are brought to pH 10-11 with concentrated ammonia and extracted three times with ethyl acetate. The organic extracts were dried over Na2SO4 and concentrated in vacuo. This gave 1.9 g (75%) of methyl 4-(2-aminoethyl)-2-tert-butylaminosulfonylbenzoate as an oil.

reactant | methyl 2-(tert-butylaminosulfonyl)-4-cyanomethylbenzoate | 8.05 mmol, 2.5 g | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)CC#N | C14H18N2O4S
solvent | methanol | 200 ml | CO | CH4O
solvent | HCl | 4 ml | Cl | ClH
catalyst | platinum oxide hydrate | 0.5 g | O.[Pt]=O
product | Methyl 4-(2-Aminoethyl)-2-tert-butylaminosulfonylbenzoate | NCCC1=CC(=C(C(=O)OC)C=C1)S(=O)(=O)NC(C)(C)C | C14H22N2O4S
